US05140011
A solution of 3.56 g (8.9 mmol) of N-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine and 9.36 ml of 1N sodium hydroxide solution in 50 ml of methanol is stirred at room temperature for 15 hours and thereafter evaporated under reduced pressure in the cold. The residue is dissolved in 70 ml of dioxan and 30 ml of water, a solution of 2.95 g (13.5 mmol) of di-t-butyl dicarbonate in 100 ml of dioxan is added dropwise thereto at room temperature and the mixture is thereafter stirred at room temperature for 15 hours. For the working-up, the reaction solution is concentrated to about 1/3 of its volume under reduced pressure and then diluted with 200 ml of ethyl acetate. After the addition of 50 ml of ice-water, the reaction mixture is adjusted to pH 2.5 and the aqueous phase is saturated with solid sodium chloride. The aqueous phase is extracted twice with ethyl acetate and the combined ethyl acetate phases are dried over sodium sulphate and evaporated. The crude product obtained is chromatographed on silica gel with a 95:5 mixture of methylene chloride and methanol which contains 0.1% acetic acid, whereby there are obtained 3.5 g of 1-(t-butoxycarbonyl)-N-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine as a colourless powder, MS: 486 (M+H)+.

reactant | N-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine | 8.9 mmol, 3.56 g | CC(C(C[C@H](C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)CC1=CC=CC=C1)=O)(C)C | C21H27N3O4
reactant | sodium hydroxide | 1N, 9.36 ml | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 13.5 mmol, 2.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 1-(t-butoxycarbonyl)-N-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine | 3.5 g | C(C)(C)(C)OC(=O)N1C=C(C[C@H](NC([C@H](CC2=CC=CC=C2)CC(C(C)(C)C)=O)=O)C(=O)O)N=C1 | C26H35N3O6
